US07671060B2
5-[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[(5-methylpyrazin-2-yl)carbamoyl]phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide
A mixture of 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide (0.19 g, 0.54 mmol), 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide (100 mg, 0.54 mmol) and potassium carbonate (149 mg, 1.08 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 140° C. for 5 hours and the mixture reduced in vacuo. Ethyl acetate (50 mL) was added and the mixture washed with water (50 mL), brine (50 mL), dried (MgSO4), and reduced in vacuo. The crude residue was chromatographed on silica, eluting with 0-5% methanol in DCM, to give the desired compound (150 mg).

reactant | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide | 0.54 mmol, 0.19 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O)F | C16H17F2N3O4
reactant | 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide | 0.54 mmol, 100 mg | ClC=1N=CC(=NC1)C(=O)N(C)C | C7H8ClN3O
reactant | potassium carbonate | 1.08 mmol, 149 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[(5-methylpyrazin-2-yl)carbamoyl]phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide | 150 mg | FC(OC[C@H](C)OC=1C=C(OC=2N=CC(=NC2)C(=O)N(C)C)C=C(C1)C(NC1=NC=C(N=C1)C)=O)F | C23H24F2N6O5
